US05874457
2-(5-methyl-1H-imidazol-4-yl)methyl-1,2-dihydro-imidazo [1,5-a]indol-3-one hydrochloride.
To a solution of 2-(5-methyl-1H-imidazol-4-yl)methyl-1,2-dihydro-imidazo[1,5-a]indol-3-one (0.6 g; 0.00225 moles) in absolute ethanol (10 ml), an excess of a solution of hydrochloric acid in ethanol is added. Diethyl ether is added, the precipitate is filtered to give 0.65 g of the title product as a white solid.

reactant | 2-(5-methyl-1H-imidazol-4-yl)methyl-1,2-dihydro-imidazo[1,5-a]indol-3-one | 0.00225 moles, 0.6 g | CC1=C(N=CN1)CN1C(N2C(=CC=3C=CC=CC23)C1)=O | C15H14N4O
reactant | hydrochloric acid | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(5-methyl-1H-imidazol-4-yl)methyl-1,2-dihydro-imidazo [1,5-a]indol-3-one hydrochloride | 0.65 g | Cl.CC1=C(N=CN1)CN1C(N2C(=CC=3C=CC=CC23)C1)=O | InChI=1S/C15H14N4O.ClH/c1-10-13(17-9-16-10)8-18-7-12-6-11-4-2-3-5-14(11)19(12)15(18)20;/h2-6,9H,7-8H2,1H3,(H,16,17);1H
